US08536180B2
2-(2-iminopyridin-1(2H)-yl)acetic acid
In a 100 mL round bottom flask, 2-chloroacetic acid (10 g, 106 mmol) in water (16.3 mL) was treated with triethylamine (16.67 mL, 120 mmol) dropwise over about 6 minutes. After stirring the reaction at ambient temperature for 10 minutes, 2-aminopyridine (11.76 g, 125 mmol) was added and the mixture was heated at 90° C. for 5 hours. The reaction mixture was cooled to ambient temperature and diluted with ethanol (11 mL). The resulting suspension was stirred in an ice bath for 1 hour and filtered. The solid collected was washed with about 30 mL cold ethanol and dried under vacuum to a constant weight to provide the title compound. MS (DCI+) m/e 152.9 (M+H)+.

reactant | 2-chloroacetic acid | 106 mmol, 10 g | ClCC(=O)O | C2H3ClO2
reactant | triethylamine | 120 mmol, 16.67 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminopyridine | 125 mmol, 11.76 g | NC1=NC=CC=C1 | C5H6N2
solvent | water | 16.3 mL | O | H2O
solvent | ethanol | 11 mL | C(C)O | C2H6O
product | 2-(2-iminopyridin-1(2H)-yl)acetic acid | N=C1N(C=CC=C1)CC(=O)O | C7H8N2O2
